US07071201B2
Example 109: Synthesis of 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-nitroindoline
1-(Piperidin-4-yl)-6-nitroindoline (3.5 g) and 4-fluorophenethyl bromide (4.1 g) were treated as in Example 2 to give the title compound (5.1 g) as apaleyellowpowder (yield: 81%).

reactant | 1-(Piperidin-4-yl)-6-nitroindoline | 3.5 g | N1CCC(CC1)N1CCC2=CC=C(C=C12)[N+](=O)[O-] | C13H17N3O2
reactant | 4-fluorophenethyl bromide | 4.1 g | FC1=CC=C(CCBr)C=C1 | C8H8BrF
product | 1-[1-(4-fluorophenethyl)piperidin-4-yl]-6-nitroindoline | 5.1 g, yield: 81% | FC1=CC=C(CCN2CCC(CC2)N2CCC3=CC=C(C=C23)[N+](=O)[O-])C=C1 | C21H24FN3O2
